US05852011
3-Trifluoromethyl-4-[N,N-bis(2-hydroxyethyl)amino]nitrobenzene
2-Fluoro-5-nitrobenzotrifluoride (5.0 g; 23.9 mmol) and 6.0 g (57.1 mmol) of diethanolamine were dissolved solved in 30 ml of DMSO, followed by stirring under heat at 140° C. for 5 hours. The reaction mixture was extracted with ethyl acetate and the extract was then dried over magnesium sulfate. The brown oil so obtained was purified by chromatography on a silica gel column (chloroform/ methanol=10/1), whereby 565 mg of the title compound were obtained as yellow powder (yield: 8%).

reactant | 2-Fluoro-5-nitrobenzotrifluoride | 23.9 mmol, 5.0 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3F4NO2
reactant | diethanolamine | 57.1 mmol, 6.0 g | N(CCO)CCO | C4H11NO2
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | 3-Trifluoromethyl-4-[N,N-bis(2-hydroxyethyl)amino]nitrobenzene | 565 mg | FC(C=1C=C(C=CC1N(CCO)CCO)[N+](=O)[O-])(F)F | C11H13F3N2O4
